US05041453
A solution of 7-chloroquinaldine (10 g, 56.3 mmol) and 3-hydroxybenzaldehyde (6.87 g, 56.3 mmol) in 25 ml of acetic anhydride is heated at 130° C. for 16 hours. The reaction mixture is concentrated and the beige solid recrystallized from hexane-ethyl acetate to afford (E)-3-(7-chloro-2-quinolinylethenyl)phenyl acetate which is used directly in the next step.

reactant | 7-chloroquinaldine | 56.3 mmol, 10 g | ClC1=CC=C2C=CC(=NC2=C1)C | C10H8ClN
reactant | 3-hydroxybenzaldehyde | 56.3 mmol, 6.87 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-3-(7-chloro-2-quinolinylethenyl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)\C=C\C1=NC2=CC(=CC=C2C=C1)Cl | C19H14ClNO2
